US07612104B2
1f) N-(5-Sulfamoyl-indan-2-yl)-acetamide
was prepared from 2-Acetylamino-indan-5-sulfonyl chloride and an excess of ammonia.

reactant | 2-Acetylamino-indan-5-sulfonyl chloride | C(C)(=O)NC1CC2=CC=C(C=C2C1)S(=O)(=O)Cl | C11H12ClNO3S
reactant | ammonia | N | H3N
product | N-(5-Sulfamoyl-indan-2-yl)-acetamide | S(N)(=O)(=O)C=1C=C2CC(CC2=CC1)NC(C)=O | C11H14N2O3S
